*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.003/0.004


.subckt chiplet4
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
*-- p/g port #: 24/24
+nd_1_0_7333_6500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_500 nd_1_0_2000_500 0.016324
rd_1_2_0_0_1 nd_1_0_2000_500 nd_1_0_3333_500 0.016324
rd_1_2_0_0_2 nd_1_0_3333_500 nd_1_0_4666_500 0.016324
rd_1_2_0_0_3 nd_1_0_4666_500 nd_1_0_6000_500 0.016324
rd_1_2_0_0_4 nd_1_0_6000_500 nd_1_0_7333_500 0.016324
rd_1_2_0_0_5 nd_1_0_7333_500 nd_1_0_8666_500 0.016324
rd_1_2_0_1_0 nd_1_0_666_1500 nd_1_0_2000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_2000_1500 nd_1_0_3333_1500 0.016324
rd_1_2_0_1_2 nd_1_0_3333_1500 nd_1_0_4666_1500 0.016324
rd_1_2_0_1_3 nd_1_0_4666_1500 nd_1_0_6000_1500 0.016324
rd_1_2_0_1_4 nd_1_0_6000_1500 nd_1_0_7333_1500 0.016324
rd_1_2_0_1_5 nd_1_0_7333_1500 nd_1_0_8666_1500 0.016324
rd_1_2_0_2_0 nd_1_0_666_2500 nd_1_0_2000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_2000_2500 nd_1_0_3333_2500 0.016324
rd_1_2_0_2_2 nd_1_0_3333_2500 nd_1_0_4666_2500 0.016324
rd_1_2_0_2_3 nd_1_0_4666_2500 nd_1_0_6000_2500 0.016324
rd_1_2_0_2_4 nd_1_0_6000_2500 nd_1_0_7333_2500 0.016324
rd_1_2_0_2_5 nd_1_0_7333_2500 nd_1_0_8666_2500 0.016324
rd_1_2_0_3_0 nd_1_0_666_3500 nd_1_0_2000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_2000_3500 nd_1_0_3333_3500 0.016324
rd_1_2_0_3_2 nd_1_0_3333_3500 nd_1_0_4666_3500 0.016324
rd_1_2_0_3_3 nd_1_0_4666_3500 nd_1_0_6000_3500 0.016324
rd_1_2_0_3_4 nd_1_0_6000_3500 nd_1_0_7333_3500 0.016324
rd_1_2_0_3_5 nd_1_0_7333_3500 nd_1_0_8666_3500 0.016324
rd_1_2_0_4_0 nd_1_0_666_4500 nd_1_0_2000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_2000_4500 nd_1_0_3333_4500 0.016324
rd_1_2_0_4_2 nd_1_0_3333_4500 nd_1_0_4666_4500 0.016324
rd_1_2_0_4_3 nd_1_0_4666_4500 nd_1_0_6000_4500 0.016324
rd_1_2_0_4_4 nd_1_0_6000_4500 nd_1_0_7333_4500 0.016324
rd_1_2_0_4_5 nd_1_0_7333_4500 nd_1_0_8666_4500 0.016324
rd_1_2_0_5_0 nd_1_0_666_5500 nd_1_0_2000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_2000_5500 nd_1_0_3333_5500 0.016324
rd_1_2_0_5_2 nd_1_0_3333_5500 nd_1_0_4666_5500 0.016324
rd_1_2_0_5_3 nd_1_0_4666_5500 nd_1_0_6000_5500 0.016324
rd_1_2_0_5_4 nd_1_0_6000_5500 nd_1_0_7333_5500 0.016324
rd_1_2_0_5_5 nd_1_0_7333_5500 nd_1_0_8666_5500 0.016324
rd_1_2_0_6_0 nd_1_0_666_6500 nd_1_0_2000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_2000_6500 nd_1_0_3333_6500 0.016324
rd_1_2_0_6_2 nd_1_0_3333_6500 nd_1_0_4666_6500 0.016324
rd_1_2_0_6_3 nd_1_0_4666_6500 nd_1_0_6000_6500 0.016324
rd_1_2_0_6_4 nd_1_0_6000_6500 nd_1_0_7333_6500 0.016324
rd_1_2_0_6_5 nd_1_0_7333_6500 nd_1_0_8666_6500 0.016324
rd_1_2_0_7_0 nd_1_0_666_7500 nd_1_0_2000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_2000_7500 nd_1_0_3333_7500 0.016324
rd_1_2_0_7_2 nd_1_0_3333_7500 nd_1_0_4666_7500 0.016324
rd_1_2_0_7_3 nd_1_0_4666_7500 nd_1_0_6000_7500 0.016324
rd_1_2_0_7_4 nd_1_0_6000_7500 nd_1_0_7333_7500 0.016324
rd_1_2_0_7_5 nd_1_0_7333_7500 nd_1_0_8666_7500 0.016324
rd_1_2_0_8_0 nd_1_0_666_8500 nd_1_0_2000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_2000_8500 nd_1_0_3333_8500 0.016324
rd_1_2_0_8_2 nd_1_0_3333_8500 nd_1_0_4666_8500 0.016324
rd_1_2_0_8_3 nd_1_0_4666_8500 nd_1_0_6000_8500 0.016324
rd_1_2_0_8_4 nd_1_0_6000_8500 nd_1_0_7333_8500 0.016324
rd_1_2_0_8_5 nd_1_0_7333_8500 nd_1_0_8666_8500 0.016324
rd_1_2_0_9_0 nd_1_0_666_9500 nd_1_0_2000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_2000_9500 nd_1_0_3333_9500 0.016324
rd_1_2_0_9_2 nd_1_0_3333_9500 nd_1_0_4666_9500 0.016324
rd_1_2_0_9_3 nd_1_0_4666_9500 nd_1_0_6000_9500 0.016324
rd_1_2_0_9_4 nd_1_0_6000_9500 nd_1_0_7333_9500 0.016324
rd_1_2_0_9_5 nd_1_0_7333_9500 nd_1_0_8666_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_500 nd_2_0_666_1500 0.016324
rd_2_1_0_0_1 nd_2_0_666_1500 nd_2_0_666_2500 0.016324
rd_2_1_0_0_2 nd_2_0_666_2500 nd_2_0_666_3500 0.016324
rd_2_1_0_0_3 nd_2_0_666_3500 nd_2_0_666_4500 0.016324
rd_2_1_0_0_4 nd_2_0_666_4500 nd_2_0_666_5500 0.016324
rd_2_1_0_0_5 nd_2_0_666_5500 nd_2_0_666_6500 0.016324
rd_2_1_0_0_6 nd_2_0_666_6500 nd_2_0_666_7500 0.016324
rd_2_1_0_0_7 nd_2_0_666_7500 nd_2_0_666_8500 0.016324
rd_2_1_0_0_8 nd_2_0_666_8500 nd_2_0_666_9500 0.016324
rd_2_1_0_1_0 nd_2_0_2000_500 nd_2_0_2000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_2000_1500 nd_2_0_2000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_2000_2500 nd_2_0_2000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_2000_3500 nd_2_0_2000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_2000_4500 nd_2_0_2000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_2000_5500 nd_2_0_2000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_2000_6500 nd_2_0_2000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_2000_7500 nd_2_0_2000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_2000_8500 nd_2_0_2000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_3333_500 nd_2_0_3333_1500 0.016324
rd_2_1_0_2_1 nd_2_0_3333_1500 nd_2_0_3333_2500 0.016324
rd_2_1_0_2_2 nd_2_0_3333_2500 nd_2_0_3333_3500 0.016324
rd_2_1_0_2_3 nd_2_0_3333_3500 nd_2_0_3333_4500 0.016324
rd_2_1_0_2_4 nd_2_0_3333_4500 nd_2_0_3333_5500 0.016324
rd_2_1_0_2_5 nd_2_0_3333_5500 nd_2_0_3333_6500 0.016324
rd_2_1_0_2_6 nd_2_0_3333_6500 nd_2_0_3333_7500 0.016324
rd_2_1_0_2_7 nd_2_0_3333_7500 nd_2_0_3333_8500 0.016324
rd_2_1_0_2_8 nd_2_0_3333_8500 nd_2_0_3333_9500 0.016324
rd_2_1_0_3_0 nd_2_0_4666_500 nd_2_0_4666_1500 0.016324
rd_2_1_0_3_1 nd_2_0_4666_1500 nd_2_0_4666_2500 0.016324
rd_2_1_0_3_2 nd_2_0_4666_2500 nd_2_0_4666_3500 0.016324
rd_2_1_0_3_3 nd_2_0_4666_3500 nd_2_0_4666_4500 0.016324
rd_2_1_0_3_4 nd_2_0_4666_4500 nd_2_0_4666_5500 0.016324
rd_2_1_0_3_5 nd_2_0_4666_5500 nd_2_0_4666_6500 0.016324
rd_2_1_0_3_6 nd_2_0_4666_6500 nd_2_0_4666_7500 0.016324
rd_2_1_0_3_7 nd_2_0_4666_7500 nd_2_0_4666_8500 0.016324
rd_2_1_0_3_8 nd_2_0_4666_8500 nd_2_0_4666_9500 0.016324
rd_2_1_0_4_0 nd_2_0_6000_500 nd_2_0_6000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_6000_1500 nd_2_0_6000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_6000_2500 nd_2_0_6000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_6000_3500 nd_2_0_6000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_6000_4500 nd_2_0_6000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_6000_5500 nd_2_0_6000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_6000_6500 nd_2_0_6000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_6000_7500 nd_2_0_6000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_6000_8500 nd_2_0_6000_9500 0.016324
rd_2_1_0_5_0 nd_2_0_7333_500 nd_2_0_7333_1500 0.016324
rd_2_1_0_5_1 nd_2_0_7333_1500 nd_2_0_7333_2500 0.016324
rd_2_1_0_5_2 nd_2_0_7333_2500 nd_2_0_7333_3500 0.016324
rd_2_1_0_5_3 nd_2_0_7333_3500 nd_2_0_7333_4500 0.016324
rd_2_1_0_5_4 nd_2_0_7333_4500 nd_2_0_7333_5500 0.016324
rd_2_1_0_5_5 nd_2_0_7333_5500 nd_2_0_7333_6500 0.016324
rd_2_1_0_5_6 nd_2_0_7333_6500 nd_2_0_7333_7500 0.016324
rd_2_1_0_5_7 nd_2_0_7333_7500 nd_2_0_7333_8500 0.016324
rd_2_1_0_5_8 nd_2_0_7333_8500 nd_2_0_7333_9500 0.016324
rd_2_1_0_6_0 nd_2_0_8666_500 nd_2_0_8666_1500 0.016324
rd_2_1_0_6_1 nd_2_0_8666_1500 nd_2_0_8666_2500 0.016324
rd_2_1_0_6_2 nd_2_0_8666_2500 nd_2_0_8666_3500 0.016324
rd_2_1_0_6_3 nd_2_0_8666_3500 nd_2_0_8666_4500 0.016324
rd_2_1_0_6_4 nd_2_0_8666_4500 nd_2_0_8666_5500 0.016324
rd_2_1_0_6_5 nd_2_0_8666_5500 nd_2_0_8666_6500 0.016324
rd_2_1_0_6_6 nd_2_0_8666_6500 nd_2_0_8666_7500 0.016324
rd_2_1_0_6_7 nd_2_0_8666_7500 nd_2_0_8666_8500 0.016324
rd_2_1_0_6_8 nd_2_0_8666_8500 nd_2_0_8666_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_500 nd_2_0_666_500 0.005
rvd_1_0_0_1 nd_1_0_2000_500 nd_2_0_2000_500 0.005
rvd_1_0_0_2 nd_1_0_3333_500 nd_2_0_3333_500 0.005
rvd_1_0_0_3 nd_1_0_4666_500 nd_2_0_4666_500 0.005
rvd_1_0_0_4 nd_1_0_6000_500 nd_2_0_6000_500 0.005
rvd_1_0_0_5 nd_1_0_7333_500 nd_2_0_7333_500 0.005
rvd_1_0_0_6 nd_1_0_8666_500 nd_2_0_8666_500 0.005
rvd_1_0_1_0 nd_1_0_666_1500 nd_2_0_666_1500 0.005
rvd_1_0_1_1 nd_1_0_2000_1500 nd_2_0_2000_1500 0.005
rvd_1_0_1_2 nd_1_0_3333_1500 nd_2_0_3333_1500 0.005
rvd_1_0_1_3 nd_1_0_4666_1500 nd_2_0_4666_1500 0.005
rvd_1_0_1_4 nd_1_0_6000_1500 nd_2_0_6000_1500 0.005
rvd_1_0_1_5 nd_1_0_7333_1500 nd_2_0_7333_1500 0.005
rvd_1_0_1_6 nd_1_0_8666_1500 nd_2_0_8666_1500 0.005
rvd_1_0_2_0 nd_1_0_666_2500 nd_2_0_666_2500 0.005
rvd_1_0_2_1 nd_1_0_2000_2500 nd_2_0_2000_2500 0.005
rvd_1_0_2_2 nd_1_0_3333_2500 nd_2_0_3333_2500 0.005
rvd_1_0_2_3 nd_1_0_4666_2500 nd_2_0_4666_2500 0.005
rvd_1_0_2_4 nd_1_0_6000_2500 nd_2_0_6000_2500 0.005
rvd_1_0_2_5 nd_1_0_7333_2500 nd_2_0_7333_2500 0.005
rvd_1_0_2_6 nd_1_0_8666_2500 nd_2_0_8666_2500 0.005
rvd_1_0_3_0 nd_1_0_666_3500 nd_2_0_666_3500 0.005
rvd_1_0_3_1 nd_1_0_2000_3500 nd_2_0_2000_3500 0.005
rvd_1_0_3_2 nd_1_0_3333_3500 nd_2_0_3333_3500 0.005
rvd_1_0_3_3 nd_1_0_4666_3500 nd_2_0_4666_3500 0.005
rvd_1_0_3_4 nd_1_0_6000_3500 nd_2_0_6000_3500 0.005
rvd_1_0_3_5 nd_1_0_7333_3500 nd_2_0_7333_3500 0.005
rvd_1_0_3_6 nd_1_0_8666_3500 nd_2_0_8666_3500 0.005
rvd_1_0_4_0 nd_1_0_666_4500 nd_2_0_666_4500 0.005
rvd_1_0_4_1 nd_1_0_2000_4500 nd_2_0_2000_4500 0.005
rvd_1_0_4_2 nd_1_0_3333_4500 nd_2_0_3333_4500 0.005
rvd_1_0_4_3 nd_1_0_4666_4500 nd_2_0_4666_4500 0.005
rvd_1_0_4_4 nd_1_0_6000_4500 nd_2_0_6000_4500 0.005
rvd_1_0_4_5 nd_1_0_7333_4500 nd_2_0_7333_4500 0.005
rvd_1_0_4_6 nd_1_0_8666_4500 nd_2_0_8666_4500 0.005
rvd_1_0_5_0 nd_1_0_666_5500 nd_2_0_666_5500 0.005
rvd_1_0_5_1 nd_1_0_2000_5500 nd_2_0_2000_5500 0.005
rvd_1_0_5_2 nd_1_0_3333_5500 nd_2_0_3333_5500 0.005
rvd_1_0_5_3 nd_1_0_4666_5500 nd_2_0_4666_5500 0.005
rvd_1_0_5_4 nd_1_0_6000_5500 nd_2_0_6000_5500 0.005
rvd_1_0_5_5 nd_1_0_7333_5500 nd_2_0_7333_5500 0.005
rvd_1_0_5_6 nd_1_0_8666_5500 nd_2_0_8666_5500 0.005
rvd_1_0_6_0 nd_1_0_666_6500 nd_2_0_666_6500 0.005
rvd_1_0_6_1 nd_1_0_2000_6500 nd_2_0_2000_6500 0.005
rvd_1_0_6_2 nd_1_0_3333_6500 nd_2_0_3333_6500 0.005
rvd_1_0_6_3 nd_1_0_4666_6500 nd_2_0_4666_6500 0.005
rvd_1_0_6_4 nd_1_0_6000_6500 nd_2_0_6000_6500 0.005
rvd_1_0_6_5 nd_1_0_7333_6500 nd_2_0_7333_6500 0.005
rvd_1_0_6_6 nd_1_0_8666_6500 nd_2_0_8666_6500 0.005
rvd_1_0_7_0 nd_1_0_666_7500 nd_2_0_666_7500 0.005
rvd_1_0_7_1 nd_1_0_2000_7500 nd_2_0_2000_7500 0.005
rvd_1_0_7_2 nd_1_0_3333_7500 nd_2_0_3333_7500 0.005
rvd_1_0_7_3 nd_1_0_4666_7500 nd_2_0_4666_7500 0.005
rvd_1_0_7_4 nd_1_0_6000_7500 nd_2_0_6000_7500 0.005
rvd_1_0_7_5 nd_1_0_7333_7500 nd_2_0_7333_7500 0.005
rvd_1_0_7_6 nd_1_0_8666_7500 nd_2_0_8666_7500 0.005
rvd_1_0_8_0 nd_1_0_666_8500 nd_2_0_666_8500 0.005
rvd_1_0_8_1 nd_1_0_2000_8500 nd_2_0_2000_8500 0.005
rvd_1_0_8_2 nd_1_0_3333_8500 nd_2_0_3333_8500 0.005
rvd_1_0_8_3 nd_1_0_4666_8500 nd_2_0_4666_8500 0.005
rvd_1_0_8_4 nd_1_0_6000_8500 nd_2_0_6000_8500 0.005
rvd_1_0_8_5 nd_1_0_7333_8500 nd_2_0_7333_8500 0.005
rvd_1_0_8_6 nd_1_0_8666_8500 nd_2_0_8666_8500 0.005
rvd_1_0_9_0 nd_1_0_666_9500 nd_2_0_666_9500 0.005
rvd_1_0_9_1 nd_1_0_2000_9500 nd_2_0_2000_9500 0.005
rvd_1_0_9_2 nd_1_0_3333_9500 nd_2_0_3333_9500 0.005
rvd_1_0_9_3 nd_1_0_4666_9500 nd_2_0_4666_9500 0.005
rvd_1_0_9_4 nd_1_0_6000_9500 nd_2_0_6000_9500 0.005
rvd_1_0_9_5 nd_1_0_7333_9500 nd_2_0_7333_9500 0.005
rvd_1_0_9_6 nd_1_0_8666_9500 nd_2_0_8666_9500 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_666_500 0 0.00444685
id_0_0_0_1 nd_1_0_2000_500 0 0.00172077
id_0_0_0_2 nd_1_0_3333_500 0 0.00861375
id_0_0_0_3 nd_1_0_4666_500 0 0.01286
id_0_0_0_4 nd_1_0_6000_500 0 0.000479009
id_0_0_0_5 nd_1_0_7333_500 0 0.0168697
id_0_0_0_6 nd_1_0_8666_500 0 0.0114529
id_0_0_0_7 nd_1_0_666_1500 0 0.00882084
id_0_0_0_8 nd_1_0_2000_1500 0 0.00597605
id_0_0_0_9 nd_1_0_3333_1500 0 0.00332259
id_0_0_0_10 nd_1_0_4666_1500 0 0.00746903
id_0_0_0_11 nd_1_0_6000_1500 0 0.00476076
id_0_0_0_12 nd_1_0_7333_1500 0 0.00199323
id_0_0_0_13 nd_1_0_8666_1500 0 0.0185379
id_0_0_0_14 nd_1_0_666_2500 0 0.00346148
id_0_0_0_15 nd_1_0_2000_2500 0 0.000737422
id_0_0_0_16 nd_1_0_3333_2500 0 0.0173864
id_0_0_0_17 nd_1_0_4666_2500 0 0.0145548
id_0_0_0_18 nd_1_0_6000_2500 0 0.0187222
id_0_0_0_19 nd_1_0_7333_2500 0 0.00640813
id_0_0_0_20 nd_1_0_8666_2500 0 0.0132863
id_0_0_0_21 nd_1_0_666_3500 0 0.0105009
id_0_0_0_22 nd_1_0_2000_3500 0 0.0147759
id_0_0_0_23 nd_1_0_3333_3500 0 0.00238304
id_0_0_0_24 nd_1_0_4666_3500 0 0.0188029
id_0_0_0_25 nd_1_0_6000_3500 0 0.0161531
id_0_0_0_26 nd_1_0_7333_3500 0 0.00112468
id_0_0_0_27 nd_1_0_8666_3500 0 0.00793927
id_0_0_0_28 nd_1_0_666_4500 0 0.0052239
id_0_0_0_29 nd_1_0_2000_4500 0 0.0191425
id_0_0_0_30 nd_1_0_3333_4500 0 0.0066104
id_0_0_0_31 nd_1_0_4666_4500 0 0.0135616
id_0_0_0_32 nd_1_0_6000_4500 0 0.0108941
id_0_0_0_33 nd_1_0_7333_4500 0 0.0150911
id_0_0_0_34 nd_1_0_8666_4500 0 0.012324
id_0_0_0_35 nd_1_0_666_5500 0 0.00959883
id_0_0_0_36 nd_1_0_2000_5500 0 0.00686803
id_0_0_0_37 nd_1_0_3333_5500 0 0.00136587
id_0_0_0_38 nd_1_0_4666_5500 0 0.00827542
id_0_0_0_39 nd_1_0_6000_5500 0 0.0152189
id_0_0_0_40 nd_1_0_7333_5500 0 0.00292397
id_0_0_0_41 nd_1_0_8666_5500 0 0.0167005
id_0_0_0_42 nd_1_0_666_6500 0 0.00424381
id_0_0_0_43 nd_1_0_2000_6500 0 0.00152009
id_0_0_0_44 nd_1_0_3333_6500 0 0.018102
id_0_0_0_45 nd_1_0_4666_6500 0 0.0126929
id_0_0_0_46 nd_1_0_6000_6500 0 0.000301521
id_0_0_0_47 nd_1_0_7333_6500 0 0.00725349
id_0_0_0_48 nd_1_0_8666_6500 0 0.0113626
id_0_0_0_49 nd_1_0_666_7500 0 0.0183274
id_0_0_0_50 nd_1_0_2000_7500 0 0.00588179
id_0_0_0_51 nd_1_0_3333_7500 0 0.00320626
id_0_0_0_52 nd_1_0_4666_7500 0 0.00736897
id_0_0_0_53 nd_1_0_6000_7500 0 0.0142146
id_0_0_0_54 nd_1_0_7333_7500 0 0.0115203
id_0_0_0_55 nd_1_0_8666_7500 0 0.00877313
id_0_0_0_56 nd_1_0_666_8500 0 0.0129149
id_0_0_0_57 nd_1_0_2000_8500 0 0.010227
id_0_0_0_58 nd_1_0_3333_8500 0 0.00749378
id_0_0_0_59 nd_1_0_4666_8500 0 0.0144926
id_0_0_0_60 nd_1_0_6000_8500 0 0.0186511
id_0_0_0_61 nd_1_0_7333_8500 0 0.0158757
id_0_0_0_62 nd_1_0_8666_8500 0 0.0035009
id_0_0_0_63 nd_1_0_666_9500 0 0.0103596
id_0_0_0_64 nd_1_0_2000_9500 0 0.00494992
id_0_0_0_65 nd_1_0_3333_9500 0 0.0119049
id_0_0_0_66 nd_1_0_4666_9500 0 0.00920534
id_0_0_0_67 nd_1_0_6000_9500 0 0.0160269
id_0_0_0_68 nd_1_0_7333_9500 0 0.000945248
id_0_0_0_69 nd_1_0_8666_9500 0 0.00799129

*-- intentional decap
cd_add_cap0 nd_1_0_2000_1500 nd0 'dcap_int_val152'
cd_add_cap1 nd_1_0_4666_1500 nd1 'dcap_int_val153'
cd_add_cap2 nd_1_0_7333_1500 nd2 'dcap_int_val154'
cd_add_cap3 nd_1_0_2000_3500 nd3 'dcap_int_val155'
cd_add_cap4 nd_1_0_4666_3500 nd4 'dcap_int_val156'
cd_add_cap5 nd_1_0_7333_3500 nd5 'dcap_int_val157'
cd_add_cap6 nd_1_0_2000_5500 nd6 'dcap_int_val158'
cd_add_cap7 nd_1_0_4666_5500 nd7 'dcap_int_val159'
cd_add_cap8 nd_1_0_7333_5500 nd8 'dcap_int_val160'
cd_add_cap9 nd_1_0_2000_8500 nd9 'dcap_int_val161'
cd_add_cap10 nd_1_0_4666_8500 nd10 'dcap_int_val162'
cd_add_cap11 nd_1_0_7333_8500 nd11 'dcap_int_val163'
rd_add0 nd0 0 'esr31'
rd_add1 nd1 0 'esr32'
rd_add2 nd2 0 'esr33'
rd_add3 nd3 0 'esr34'
rd_add4 nd4 0 'esr35'
rd_add5 nd5 0 'esr36'
rd_add6 nd6 0 'esr37'
rd_add7 nd7 0 'esr38'
rd_add8 nd8 0 'esr39'
rd_add9 nd9 0 'esr40'
rd_add10 nd10 0 'esr41'
rd_add11 nd11 0 'esr42'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_2000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_2000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_2000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_2000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3333_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3333_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3333_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3333_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_4666_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_4666_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_4666_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_4666_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_6000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_6000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_6000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_6000_7500  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_7333_2500  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_7333_4500  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_7333_6500  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_7333_8500  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_8666_1500  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_8666_3500  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_8666_5500  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_8666_7500  0.001

.ends chiplet4
